US06573262B2
To an oven dried 250 ml flask was charged with CH3MgBr (16.7 ml, 50 mmol, 3 M in Et2O) at r.t. under N2. It was then cooled down to −18° C. in a NaCl/ice bath, and 7-cyano-4-fluoroindole (2.0 g, 12.5 mmol) in dry THF (100 ml) was added dropwise using an addition funnel over 45 min. After 10 min, the reaction mixture was allowed to warm to r.t., and stirred for 2 hr. The reaction was slowly quenched with 5% sulfuric acid and the mixture stirred for 10 min. The reaction mixture was concentrated in vacuo and the residue poured into CHCl3 (150 ml). After neutralization with aqueous NH3 (50 ml), water (100 ml) was added, and the two layers were separated using a separation funnel. The aqueous layer was back extracted with CHCl3 (2×100 ml), and the combined organic extracts washed with H2O (100 ml), brine (100 ml), and dried (MgSO4). After evaporation in vacuo, the resulted crude compound was purified by flash chromatography (20% EtOAc/Hexane) to give 7-acetyl-4-fluoroindole (1.3 g, 59%) as a light gray solid. 1H NMR: (CDCl3) δ 10.55 (b s, 1H), 7.76 (dd, J=4.8, 8.3, 1H), 7.31 (app t, J=2.7, 1H), 6.83 (dd, J=8.4, 9.6, 1H), 6.67 (app t, J=2.9, 1H), 2.68 (s, 3H); HPLC Rt=1.343.

reactant | CH3MgBr | 50 mmol, 3 M, 16.7 ml | C[Mg+].[Br-]
reactant | 7-cyano-4-fluoroindole | 12.5 mmol, 2.0 g | C(#N)C=1C=CC(=C2C=CNC12)F | C9H5FN2
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | 7-acetyl-4-fluoroindole | 1.3 g, 59% | C(C)(=O)C=1C=CC(=C2C=CNC12)F | C10H8FNO
